US07166648B2
37 g of 3-acetyl-4-oxo-pentanoic acid ethyl ester, synthesized according to the procedure given in Example 15, and 0.3 g of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were mixed, and 30 g of ethyl acrylate was added dropwise over 30 minutes. After stirring for 24 hours, the base was neutralized by adding acetic acid. 80 ml of diethyl ether was added, and the mixture was extracted with 60 ml of an aqueous sodium carbonate solution and 150 ml of water. Fractional distillation of the water-free organic layer yielded 46.2 g of 3,3-diacetyl-hexanedioic acid diethyl ester (boiling point: 150° C./0.03 mbar; purity: >99%; colorless).

reactant | 3-acetyl-4-oxo-pentanoic acid ethyl ester | 37 g | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | ethyl acrylate | 30 g | C(C=C)(=O)OCC | C5H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 0.3 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 3,3-diacetyl-hexanedioic acid diethyl ester | 46.2 g | C(C)OC(CC(CCC(=O)OCC)(C(C)=O)C(C)=O)=O | C14H22O6
